* The title

V1 x00 0 1
R0 x00 x01 28634.999917051035
R1 x01 x02 R=table(V(x01)-V(x02),-0.9,72160.15381021245,-0.8818181818181818,74943.94162206358,-0.8636363636363636,78059.98311320804,-0.8454545454545455,81542.53908789098,-0.8272727272727273,85430.8604830624,-0.8090909090909091,89769.9312597201,-0.7909090909090909,94611.33906946777,-0.7727272727272727,100014.29667213137,-0.7545454545454546,106046.84147732759,-0.7363636363636363,112787.24583037618,-0.7181818181818183,120325.67692026438,-0.7000000000000001,128766.15263854744,-0.6818181818181819,138228.8485728341,-0.6636363636363637,148852.82181097765,-0.6454545454545455,160799.22961627212,-0.6272727272727273,174255.1355728716,-0.6090909090909091,189438.0127466927,-0.5909090909090909,206601.07296617187,-0.5727272727272728,226039.5736002432,-0.5545454545454546,248098.27809696092,-0.5363636363636364,273180.27358979743,-0.5181818181818183,301757.3770287333,-0.5,334382.38852833095,-0.48181818181818187,371703.4733749083,-0.4636363636363637,414480.96639255126,-0.4454545454545455,463606.88433111063,-0.4272727272727273,520127.38794545,-0.4090909090909091,585268.3308254693,-0.390909090909091,660463.8284290106,-0.3727272727272728,747387.4189753094,-0.3545454545454546,847984.7773788606,-0.3363636363636364,964505.9471441705,-0.31818181818181823,1099533.46777517,-0.30000000000000004,1256000.29421519,-0.28181818181818186,1437187.5953094694,-0.26363636363636367,1646686.7808910944,-0.24545454545454548,1888301.6758100912,-0.2272727272727273,2165854.80080352,-0.2090909090909091,2482845.699060604,-0.19090909090909092,2841889.897474322,-0.17272727272727273,3243848.615390458,-0.15454545454545465,3686553.7261473066,-0.13636363636363646,4163066.5619259155,-0.11818181818181828,4659532.265909076,-0.10000000000000009,5152973.02545409,-0.0818181818181819,5609852.701576684,-0.06363636363636371,5986849.598687002,-0.045454545454545525,6235564.782275431,-0.027272727272727337,6312056.67011147,-0.00909090909090915,6189521.310281098,0.009090909090909038,5869076.030949557,0.027272727272727226,5382471.720763993,0.045454545454545414,4784136.295285802,0.0636363636363636,4136260.9419036857,0.08181818181818179,3494256.678539066,0.09999999999999998,2898110.211403562,0.11818181818181805,2370621.613229983,0.13636363636363635,1920243.306849714,0.15454545454545443,1545608.0765046864,0.17272727272727273,1239776.1335253594,0.1909090909090908,993389.2202990815,0.2090909090909091,796668.4575745647,0.22727272727272718,640505.7094129691,0.24545454545454548,516949.92381971603,0.26363636363636356,419334.7621313747,0.28181818181818163,342217.07116075425,0.29999999999999993,281230.95176306064,0.318181818181818,232916.6763524512,0.3363636363636363,194554.9177636361,0.3545454545454544,164019.85111050174,0.3727272727272727,139655.4256991416,0.39090909090909076,120174.42411916338,0.40909090909090906,104577.85220825108,0.42727272727272714,92091.53256365705,0.44545454545454544,82116.8066181844,0.4636363636363635,74192.59769322764,0.4818181818181818,67966.5452740732,0.4999999999999999,63173.389831958986,0.5181818181818182,59619.22794011859,0.5363636363636363,57170.66272153553,0.5545454545454546,55748.258624245645,0.5727272727272726,55324.1014790596,0.5909090909090907,55923.71146649661,0.609090909090909,57633.13090007681,0.6272727272727271,60612.828447104155,0.6454545454545454,65121.32508700148,0.6636363636363635,71553.50149229338,0.6818181818181818,80502.01570001074,0.6999999999999998,92856.29773714425,0.7181818181818181,109964.38302941289,0.7363636363636362,133902.6604429818,0.7545454545454545,167935.96888139466,0.7727272727272726,217322.92994242342,0.7909090909090909,290766.2107997002,0.809090909090909,403106.2960065767,0.8272727272727273,580496.0011412578,0.8454545454545453,870709.6319274022,0.8636363636363634,1364512.9920616976,0.8818181818181817,2241918.6400233447,0.9,3877149.5499534565)
R2 x02 0 16003.267397874324

.dc V1 -0.9 0.9 0.01
.print(I(R1))
.end