* The title

V1 x00 0 1
R0 x00 x01 28634.999917051035
R1 x01 x02 R=table(V(x01)-V(x02),-0.9,224548.78022201196,-0.8818181818181818,242766.39009064768,-0.8636363636363636,263713.5881425013,-0.8454545454545455,287829.08921455493,-0.8272727272727273,315636.13399526256,-0.8090909090909091,347760.03728689137,-0.7909090909090909,384949.7302620917,-0.7727272727272727,428104.259115198,-0.7545454545454546,478305.4472314311,-0.7363636363636363,536858.2371448352,-0.7181818181818183,605340.619462605,-0.7000000000000001,685665.5505830612,-0.6818181818181819,780157.8872527621,-0.6636363636363637,891650.1589198407,-0.6454545454545455,1023602.0026159997,-0.6272727272727273,1180249.3550025015,-0.6090909090909091,1366791.1009165423,-0.5909090909090909,1589622.9017991163,-0.5727272727272728,1856630.473559009,-0.5545454545454546,2177557.77451695,-0.5363636363636364,2564469.5430974793,-0.5181818181818183,3032332.552224663,-0.5,3599745.9917269074,-0.48181818181818187,4289858.709302242,-0.4636363636363637,5131519.743929309,-0.4454545454545455,6160718.6650761645,-0.4272727272727273,7422383.4419062445,-0.4090909090909091,8972615.223941956,-0.390909090909091,10881450.054049496,-0.3727272727272728,13236244.356194396,-0.3545454545454546,16145779.008464072,-0.3363636363636364,19745157.219990592,-0.31818181818181823,24201519.654466197,-0.30000000000000004,29720492.3074277,-0.28181818181818186,36553080.17436299,-0.26363636363636367,45002363.02533066,-0.24545454545454548,55428749.23531103,-0.2272727272727273,68251573.73973471,-0.2090909090909091,83943328.43199939,-0.19090909090909092,103010635.28970061,-0.17272727272727273,125953193.27592106,-0.15454545454545465,153188772.28765464,-0.13636363636363646,184930398.92626503,-0.11818181818181828,221004813.18015692,-0.10000000000000009,260615826.56850988,-0.0818181818181819,302091249.8673701,-0.06363636363636371,342711138.0698177,-0.045454545454545525,378778435.365672,-0.027272727272727337,406098161.09667593,-0.00909090909090915,420892610.272164,0.009090909090909038,420892610.27215886,0.027272727272727226,406098161.0966743,0.045454545454545414,378778435.36567104,0.0636363636363636,342711138.0698171,0.08181818181818179,302091249.8673697,0.09999999999999998,260615826.56850958,0.11818181818181805,221004813.1801565,0.13636363636363635,184930398.92626488,0.15454545454545443,153188772.28765443,0.17272727272727273,125953193.27592106,0.1909090909090908,103010635.28970055,0.2090909090909091,83943328.43199939,0.22727272727272718,68251573.73973468,0.24545454545454548,55428749.23531103,0.26363636363636356,45002363.02533064,0.28181818181818163,36553080.17436296,0.29999999999999993,29720492.30742769,0.318181818181818,24201519.65446618,0.3363636363636363,19745157.21999059,0.3545454545454544,16145779.008464202,0.3727272727272727,13236244.356194392,0.39090909090909076,10881450.05404949,0.40909090909090906,8972615.223941954,0.42727272727272714,7422383.441906242,0.44545454545454544,6160718.665076164,0.4636363636363635,5131519.743929307,0.4818181818181818,4289858.709302241,0.4999999999999999,3599745.991726907,0.5181818181818182,3032332.552224662,0.5363636363636363,2564469.543097479,0.5545454545454546,2177557.77451695,0.5727272727272726,1856630.4735590087,0.5909090909090907,1589622.9017991156,0.609090909090909,1366791.100916542,0.6272727272727271,1180249.3550025031,0.6454545454545454,1023602.0026159994,0.6636363636363635,891650.1589198404,0.6818181818181818,780157.887252762,0.6999999999999998,685665.550583061,0.7181818181818181,605340.619462605,0.7363636363636362,536858.2371448351,0.7545454545454545,478305.447231431,0.7727272727272726,428104.2591151979,0.7909090909090909,384949.7302620917,0.809090909090909,347760.0372868913,0.8272727272727273,315636.13399526256,0.8454545454545453,287829.0892145554,0.8636363636363634,263713.58814250125,0.8818181818181817,242766.39009064765,0.9,224548.78022201196)
R2 x02 0 28634.999917051035

.dc V1 -0.9 0.9 0.01
.print(I(R1))
.end